US06949579B2
N-[6-chloro-5-(4-ethylphenyl)-1H-indazol-3-yl]butanamide
14 cm3 of tetrabutylammonium fluoride as a 1M solution in tetrahydrofuran are added to 1.1 g of N-[6-chloro-5-(4-ethylphenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, described previously, in 50 cm3 of tetrahydrofuran. The medium is then refluxed for 18 hours and the mixture is then allowed to return to room temperature and 75 cm3 of ethyl acetate are added; the organic phase is washed with 2×100 cm3 of saturated aqueous sodium hydrogen carbonate solution and then with 75 cm3 of saturated aqueous sodium chloride solution. The organic phase is separated out after settling of the phases has taken place, dried over magnesium sulphate, filtered and evaporated to dryness under reduced pressure (2 kPa; 45° C.). The residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 3 cm), eluting with a cyclohexane/ethyl acetate mixture (70/30 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.); the residue is taken up in 20 cm3 of diisopropyl ether, filtered off on a sinter funnel and washed with 2×10 cm3 of diisopropyl ether. After drying under reduced pressure (90 Pa; 50° C.), 440 mg of N-(6-chloro-5-phenyl-1H-indazol-3-yl)butanamide are obtained in the form of white crystals melting at 240° C.

reactant | tetrabutylammonium fluoride | 14 cm3 | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-[6-chloro-5-(4-ethylphenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1.1 g | ClC1=C(C=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O)C1=CC=C(C=C1)CC | C25H34ClN3O2Si
reactant | ethyl acetate | 75 cm3 | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
product | N-[6-chloro-5-(4-ethylphenyl)-1H-indazol-3-yl]butanamide | ClC1=C(C=C2C(=NNC2=C1)NC(CCC)=O)C1=CC=C(C=C1)CC | C19H20ClN3O
